* source DRAFT
R_R1         N01142 N00209  0.001 TC=0,0 
V_V1         N01138 0 3Vdc
D_D3         N01138 N01142 Dbreak 
X_D2         0 N00209 Zener_parameterized PARAMS: VZT=5 RSF=100m
C_C1         0 N00209  0.1uF  TC=0,0 
